US04064247
(S)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (38 g.) is dissolved in methyl iodide (500 cc.). After 15 hours at a temperature of about 20° C., the crystals which have appeared are filtered off, washed with diethylether (2 × 50 cc.) and then dried at 20° C. under reduced pressure (1 mm. Hg) to give (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (61.5 g.) melting at 140°-150° C. with decomposition.

reactant | (S)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 38 g | C1SC(N2CC=3C=CC=CC3C[C@H]21)=S | C11H11NS2
reactant | methyl iodide | 500 cc | CI | CH3I
product | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 61.5 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2 | InChI=1S/C12H14NS2.HI/c1-14-12-13-7-10-5-3-2-4-9(10)6-11(13)8-15-12;/h2-5,11H,6-8H2,1H3;1H/q+1;/p-1/t11-;/m0./s1
